datasets/10k__Tet_Int.csv
SMILES Labelled
"[O-:21][C:20]1(C)[NH+:10](C)C([H])C([H])=C1[H]>>[NH:10](C)C([H])/C([H])=C([C:20](C)=[O:21])/[H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH]C(CC)C(C)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[NH]C(CC)C(C)[O]1 10=20;20,21=21"
"CC[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]CC)[S]CC.[Cl-]>>[Cl-].CC[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]CC)[S]CC 21=20;20,10=10"
"C[O:10][C:20]([O-:21])(OC1=CC=CC=C1)OCCCCCC>>[O:21]=[C:20](OC1=CC=CC=C1)OCCCCCC.[O-:10]C 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C(C)[CH]([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH]([H])[CH](C)C([H])[S]2.[H][O:10][H] 21=20;20,10=10"
"CC1C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)CCCCCC>>CC1C(O[C:20](=[O:10])N1[H])CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C)C)CC)[O-:10])C>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)C)CC)C 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])[H])C>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])[H])[O-:10])C 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C)[H])C1=CC=CC=C1)[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C(C([O-:21])C)[H])C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"[O-:21][C:20]1(OC)[O:10]C(CCC)C([H])=C1[H]>>[O-:10]C(CCC)/C([H])=C([C:20](OC)=[O:21])/[H] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1CC)OC)C)CC>>C(C([O-:21])CC)(C(O[C:20](=[O:10])OC)C)CC 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C)CCCCCC)C1=CC=CC=C1)[O-:10])CCCCCC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)CC)C>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)CC)C.[O-:21]CCCCCC 10=20;20,21=21"
"[NH:10](C)C(CC)C(O)C(O)C([H])[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])C(O)C(O)C(CC)[NH+:10]1(C) 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OCCCCCC)C.[O-:21]C1=CC=CC=C1>>[H]N([C:20]([O-:10])(OCCCCCC)[O:21]C1=CC=CC=C1)C 21=20;20,10=10"
"[H][O+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)CC)[O-:10])C>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)CC)C 10=20;20,21=21"
"[O-:10]C([H])/C([H])=C(C)\C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C(C)=C([H])C([H])[O:10]1 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][H])([S]C)[S]C.[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].[H][O+:21]=[C:20]([S]C)[S]C 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[O:10]([Na])C([H])C(C)C(O)C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C(O)C(C)C([H])[O+:10]1([Na]) 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21][H])([NH]CC)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[H][NH+:21]=[C:20]([NH]CC)[O]CC 21=20;20,10=10"
"CCC1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[Cl:21])CC>>CCC1C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC.[Cl-:21] 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(O)C([H])C([H])C(C)[NH+:10]1(C)>>[NH:10](C)C(C)C([H])C([H])C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH]([H])[CH](C)C(C)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C(C)[CH](C)[O]1 10=20;20,21=21"
"C[O:10][H].C[NH+:21]=[C:20]([O][H])[O][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]C)([O][H])[O][H] 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)CC)[H].[O-:21]C1=CC=CC=C1>>CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)CC)[H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C([O-:21])C)C1=CC=CC=C1)CC>>[H]N([C:20]1(OC(C([O:21]1)C)C1=CC=CC=C1)[O-:10])CC 21=20;20,10=10"
"CC[O:10][H].CC[NH+:21]=[C:20]([O]CC)[O]C.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21]CC)([O]CC)[O]C 10=20;20,21=21"
"[OH:21][C:20]1([H])C(O)C(O)C(C)C(CC)[OH+:10]1>>[OH:10]C(CC)C(C)C(O)C(O)[C:20]([H])=[OH+:21] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"[H][O:10]C([H])C([H])C([H])[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
